US04363762
A mixture of 5.0 g (0.0161 mol) of ethyl (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate and 3.46 g (0.0086 mol) of 2,4-bis(p-methoxyphenyl)-1,3,2,4-dithiadiphosphetane-2,4-disulphide is heated to boiling under reflux for 1.5 hours with 30 ml of toluene. This solution is chromatographed on silica gel using ethyl acetate for the elution. There is obtained ethyl (S)-11,12,13,13a-tetrahydro-9-thioxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate which is recrystallised from 180 ml of ethyl acetate and then melts at 227°-229° C.

reactant | ethyl (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 0.0161 mol, 5.0 g | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C(=O)OCC)CCC2 | C17H17N3O3
reactant | 2,4-bis(p-methoxyphenyl)-1,3,2,4-dithiadiphosphetane-2,4-disulphide | 0.0086 mol, 3.46 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl (S)-11,12,13,13a-tetrahydro-9-thioxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | S=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C(=O)OCC)CCC2 | C17H17N3O2S
